US08242174B2
(R)-methyl 2-(4-fluoro-3,5-dimethylphenylamino)-6-(4-fluoro-3-methylbenzylamino)hexanoate (C5)
To a solution of (R)-6-amino-2-(4-fluoro-3,5-dimethyl-phenylamino)-hexanoic acid methyl ester (0.400 g, 1.009 mmol), 4-fluoro-3-methylbenzaldehyde (0.139 g, 1.009 mmol), and triethylamine (0.204 g, 2.018 mmol) in 10 mL of dichloroethane, was added NaBH(OAc)3 (0.299 g, 1.413 mmol). After stirring at room temperature for 63 h, the reaction was quenched with 30 mL of saturated NaHCO3 solution and the reaction mixture was extracted with ethyl acetate (30 mL×3). The combined organic extracts dried (Na2SO4), filtered, and concentrated under reduced pressure. The product was isolated by Flash column chromatography (silica gel column) eluting with 0-10% methanol/dichloromethane to give the title compound as brown oil (0.357 g, 87% yield). GC-MS: tR=7.5 min; m/z 404 (M+).

reactant | (R)-6-amino-2-(4-fluoro-3,5-dimethyl-phenylamino)-hexanoic acid methyl ester | 1.009 mmol, 0.400 g | COC([C@@H](CCCCN)NC1=CC(=C(C(=C1)C)F)C)=O | C15H23FN2O2
reactant | 4-fluoro-3-methylbenzaldehyde | 1.009 mmol, 0.139 g | FC1=C(C=C(C=O)C=C1)C | C8H7FO
reactant | triethylamine | 2.018 mmol, 0.204 g | C(C)N(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 1.413 mmol, 0.299 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | (R)-methyl 2-(4-fluoro-3,5-dimethylphenylamino)-6-(4-fluoro-3-methylbenzylamino)hexanoate | 0.357 g, 87% yield | FC1=C(C=C(C=C1C)N[C@@H](C(=O)OC)CCCCNCC1=CC(=C(C=C1)F)C)C | C23H30F2N2O2
